US08487105B2
Preparation of (2-cyclopropyl-4-(4-fluorophenyl)quinoline-3-yl)methanol
To 50 g of methyl 2-cyclopropyl-4-(4-fluorophenyl)quinoline-3-carboxylate added toluene (250 ml) and stirred for 15 minutes at 25° C. Cooled the reaction mixture to 0° C. Added 300 ml of DIBAL H (25% solution in toluene) to the reaction mixture slowly in 45 minutes at the same temperature. Stirred the reaction mixture for 1 hr at 0° C. Quenched the reaction mixture with HCl (110 ml) solution at 10° C. and stirred for 15 minutes. Raised the temperature to 25° C. and stirred for 30 minutes. Separated the both aqueous and organic layers. Extracted the aqueous layer with toluene (400 ml). Adjusted the pH of the reaction mixture with 10% sodium bicarbonate solution (200 ml). Washed the organic layer with saturated sodium chloride solution (200 ml). Distilled off the solvent completely to obtain a solid. Added cyclohexane (50 ml) to the solid and distilled it. To the residue added cyclohexane (150 ml) and stir for 30 minutes at 45° C. Cooled the reaction mixture to 25° C. and stirred for 1 hr. at the same temperature. Filtered the cake, washed with cyclohexane (50 ml) and then dried to get the title compound.

reactant | methyl 2-cyclopropyl-4-(4-fluorophenyl)quinoline-3-carboxylate | 50 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1C(=O)OC)C1=CC=C(C=C1)F | C20H16FNO2
reactant | DIBAL | 300 ml | CC(C)C[AlH]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (2-cyclopropyl-4-(4-fluorophenyl)quinoline-3-yl)methanol | C1(CC1)C1=NC2=CC=CC=C2C(=C1CO)C1=CC=C(C=C1)F | C19H16FNO
